US05089485
A mixture of 3-(1-chlorotridecyl)-5-trimethylsilylfuran, phenol and potassium methoxide in tetrahydrofuran is stirred at room temperature to give 3-(1-phenoxytridecyl)-5-trimethylsilylfuran. A mixture of this intermediate and Rose Bengal in tetrahydrofuran is exposed to oxygen by the procedure of Example 1 to give 4-(1-phenoxytridecyl)-5-hydroxy-2(5H)-furanone.

reactant | 3-(1-chlorotridecyl)-5-trimethylsilylfuran | ClC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C20H37ClOSi
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium methoxide | C[O-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1-phenoxytridecyl)-5-trimethylsilylfuran | O(C1=CC=CC=C1)C(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C26H42O2Si
